US04762838
6-Chloro-7-methylthioquinazolin-4(3H)-one
Under a nitrogen atmosphere in a flame dried flask equipped with a magnetic stirrer and a reflux condenser, a mixture of 1.00 g (0.00465 mol) of 6,7-dichloroquinazolin-4(3H)-one and 18 ml of dimethylformamide was treated at room temperature with 0.56 g (0.012 mol) of 50% sodium hydride in mineral oil. Foaming began immediately and most of the solids dissolved. When the foaming had subsided, 1.8 ml (0.0176 mol) of 47% methyl mercaptan in dimethyl formamide was added to the stirred mixture. The mixture was heated at 120° C. for six hours. When the reaction mixture was again at room temperature, a small amount of insoluble matter was filtered, and was rinsed with a few ml of dimethylformamide. The filtrate was washed three times with 10 ml portions of hexane. The filtrate was then poured into 300 ml of ice and water. By the addition of 2N hydrochloric acid, the aqueous solution was adjusted to pH 2. There formed a fine colorless precipitate which was filtered, washed with water, air dried and pressed on a clay plate to furnish the title compound: yield 0.97 g (92%); m.p. 292°-295° C. (dec.); mass spectrum m/e 226 (parent peak and molecular ion with expected isotope pattern), 193 (-33) among others; 1H-NMR(DMSO-d6) 2.6 ppm (singlet, 3H, SCH3), 7.45 (singlet, 1H, aromatic H), 8.0 (singlet, 1H, aromatic H), 8.15 (singlet, 1H, N=CH--N).

reactant | 6,7-dichloroquinazolin-4(3H)-one | 0.00465 mol, 1.00 g | ClC=1C=C2C(NC=NC2=CC1Cl)=O | C8H4Cl2N2O
reactant | sodium hydride | 0.012 mol, 0.56 g | [H-].[Na+]
reactant | methyl mercaptan | 0.0176 mol, 1.8 ml | CS | CH4S
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-7-methylthioquinazolin-4(3H)-one | ClC=1C=C2C(NC=NC2=CC1SC)=O | C9H7ClN2OS
